US04673676
A suspension of ethyl 7-methyl-10-nitro-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate (260 mg) in a mixture of acetic acid (6 ml) and 36% hydrochloric acid (3 ml) was refluxed for 50 minutes. The mixture was cooled to 0° C. to give yellow solid. The yellow solid was collected and dried to give 7-methyl-10-nitro-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylic acid (180 mg).

reactant | ethyl 7-methyl-10-nitro-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate | 260 mg | CC1=CN2C(C3=CC(=CC=C13)[N+](=O)[O-])=NC=C(C2=O)C(=O)OCC | C16H13N3O5
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 3 ml | Cl | ClH
product | 7-methyl-10-nitro-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylic acid | 180 mg | CC1=CN2C(C3=CC(=CC=C13)[N+](=O)[O-])=NC=C(C2=O)C(=O)O | C14H9N3O5
